US04093742
Reaction of the compounds of formulae (Ia) and (Ib) wherein Z is hydroxy with the appropriate acid chloride affords the corresponding alkanoyloxy derivative. For instance, reaction of N-[2-(hexafluoro-2-hydroxy-2-propyl)-5,6,7,8-tetrahydro-1-naphthyl]-N'-methylurea with acetyl chloride yields N-[2-(2-acetoxyhexafluoro-2-propyl)-5,6,7,8-tetrahydro-1-naphthyl]-N'-methylurea.

reactant | N-[2-(hexafluoro-2-hydroxy-2-propyl)-5,6,7,8-tetrahydro-1-naphthyl]-N'-methylurea | FC(C(C(F)(F)F)(O)C1=C(C=2CCCCC2C=C1)NC(=O)NC)(F)F | C15H16F6N2O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[2-(2-acetoxyhexafluoro-2-propyl)-5,6,7,8-tetrahydro-1-naphthyl]-N'-methylurea | C(C)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=C(C=2CCCCC2C=C1)NC(=O)NC | C17H18F6N2O3
